US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
[6-(2-Methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]propylamine 44 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 46 mg of potassium carbonate, and 30 μL of 1-propylamine reacted to give 4.6 mg of the title compound as a foam.

reactant | [6-(2-Methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]propylamine | 44 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNCCC | C22H28N2O
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-propylamine | 30 μL | C(CC)N | C3H9N
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 4.6 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
